### PR TITLE
[Merged by Bors] - feat(NumberField): specialized version of Kummer Dedekind for the splitting of prime numbers

### PR DESCRIPTION
**Pull request by xroblot**
We prove a specialized version of [KummerDedekind.normalizedFactorsMapEquivNormalizedFactorsMinPolyMk](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/KummerDedekind.html#KummerDedekind.normalizedFactorsMapEquivNormalizedFactorsMinPolyMk) for the splitting of rational prime numbers in number fields. 

This PR continues the work from #25038.

---

- [x] depends on: #26137

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by xroblot** [comment]
## Comments from Original PR #25038

*This section contains 1 comment(s) from the original PR, excluding bot comments.*

---

**@github-actions** ([2025-05-20 08:19 UTC](https://github.com/leanprover-community/mathlib4/pull/25038#issuecomment-2893403868)):
### PR summary [48fb512ebe](https://github.com/leanprover-community/mathlib4/pull/25038/commits/48fb512ebeb8238406f316a5dd5276dcc5dc04a4)

#### Import changes for modified files

No significant changes to the import graph


<details><summary>Import changes for all files</summary>

|Files|Import difference|
|-|-|

</details>

---

#### Declarations diff

No declarations were harmed in the making of this PR! 🐙
<details>
  <summary>You can run this locally as follows</summary>


```bash
## summary with just the declaration names:
./scripts/declarations_diff.sh <optional_commit>

## more verbose report:
./scripts/declarations_diff.sh long <optional_commit>
```
</details>

The doc-module for `script/declarations_diff.sh` contains some details about this script.

---

<details><summary>Increase in tech debt: (relative, absolute) = (1.00, 0.25)</summary>

|Current number|Change|Type|
|-:|:-:|:-|
|4|1|large files|

Current commit [48fb512ebe](https://github.com/leanprover-community/mathlib4/commit/48fb512ebeb8238406f316a5dd5276dcc5dc04a4)
Reference commit [4d464b72a4](https://github.com/leanprover-community/mathlib4/commit/4d464b72a4f78e5f650d4278e4d165ff2a6fc5ec)

You can run this locally as
```
./scripts/technical-debt-metrics.sh pr_summary
```
* The `relative` value is the weighted *sum* of the differences with weight given by the *inverse* of the current value of the statistic.
* The `absolute` value is the `relative` value divided by the total sum of the inverses of the current values (i.e. the weighted *average* of the differences).
</details>

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by riccardobrasca** [comment]
@tb65536 can you have a look to this? If you don't have time feel free to ask my review.

File: Mathlib/NumberTheory/NumberField/Ideal/KummerDedekind.lean [hunk 1]
```diff
@@ -110,3 +131,128 @@ def ZModXQuotSpanEquivQuotSpanPair (hp : ¬ p ∣ exponent θ) {Q : ℤ[X]}
...
+    (hQ : Q.map (Int.castRingHom (ZMod p)) ∈ monicFactorsMod θ p) :
+    ((primesOverSpanEquivMonicFactorsMod hp).symm
+      ⟨Q.map (Int.castRingHom (ZMod p)), hQ⟩ : Ideal (𝓞 K)) =
+        span {(p : (𝓞 K)), aeval θ Q} := by
+  simp only [primesOverSpanEquivMonicFactorsMod_symm_apply, Polynomial.map_map,
+    Int.quotientSpanNatEquivZMod_comp_castRingHom]
+  rw [normalizedFactorsMapEquivNormalizedFactorsMinPolyMk_symm_apply_eq_span,
+    span_union, span_eq, map_span, Set.image_singleton, map_natCast, ← span_insert]
+
+theorem liesOver_primesOverSpanEquivMonicFactorsMod_symm (hp : ¬ ↑p ∣ exponent θ) {Q : ℤ[X]}
```
Comment (tb65536) [inline Mathlib/NumberTheory/NumberField/Ideal/KummerDedekind.lean]:
```suggestion
theorem liesOver_primesOverSpanEquivMonicFactorsMod_symm (hp : ¬ p ∣ exponent θ) {Q : ℤ[X]}
```

File: Mathlib/NumberTheory/RamificationInertia/Basic.lean [hunk 2]
```diff
@@ -201,6 +201,15 @@ theorem ramificationIdx_eq_normalizedFactors_count [DecidableEq (Ideal S)]
       Multiset.nsmul_singleton, ← Multiset.le_count_iff_replicate_le]
   exact (Nat.lt_succ_self _).not_ge
 
+theorem ramificationIdx_eq_multiplicity (hf : Function.Injective f) (hp : p ≠ ⊥) (hP₁ : P.IsPrime)
+    (hP₂ : P ≠ ⊥) : ramificationIdx f p P = multiplicity P (Ideal.map f p) := by
+  classical
+  have hp' : map f p ≠ ⊥ := (map_eq_bot_iff_of_injective hf).not.mpr hp
+  rw [multiplicity_eq_of_emultiplicity_eq_some]
```
Comment (tb65536) [inline Mathlib/NumberTheory/RamificationInertia/Basic.lean]: I think you can drop `hP₂`:
```suggestion
  have hp' : map f p ≠ ⊥ := (map_eq_bot_iff_of_injective hf).not.mpr hp
  rcases eq_or_ne P ⊥ with rfl | hP₂
  · rw [← Ideal.zero_eq_bot, multiplicity_zero_eq_zero_of_ne_zero _ hp']
    exact Ideal.ramificationIdx_of_not_le (mt le_bot_iff.mp hp')
  rw [multiplicity_eq_of_emultiplicity_eq_some]
```

File: Mathlib/RingTheory/AdjoinRoot.lean [hunk 3]
```diff
@@ -552,6 +552,11 @@ theorem minpoly_powerBasis_gen_of_monic (hf : f.Monic) (hf' : f ≠ 0 := hf.ne_z
     minpoly K (powerBasis hf').gen = f := by
   rw [minpoly_powerBasis_gen hf', hf.leadingCoeff, inv_one, C.map_one, mul_one]
 
+theorem _root_.finrank_quotient_span_eq_natDegree {f : K[X]} (hf : f ≠ 0) :
```
Comment (tb65536) [inline Mathlib/RingTheory/AdjoinRoot.lean]: Can you drop `hf` here?

**Review by tb65536 — APPROVED** [review]

**Comment by tb65536** [comment]
> @tb65536 can you have a look to this? If you don't have time feel free to ask my review.

Thanks for the reminder, and sorry for the delay, I lost track of how long this was assigned to me.

File: Mathlib/NumberTheory/RamificationInertia/Basic.lean (hunk 2 above)
Comment (xroblot) [reply Mathlib/NumberTheory/RamificationInertia/Basic.lean]: Indeed. I also weakened a bit the hypothesis.

File: Mathlib/RingTheory/AdjoinRoot.lean (hunk 3 above)
Comment (xroblot) [reply Mathlib/RingTheory/AdjoinRoot.lean]: Yes, indeed. 

Thanks for the review!

File: Mathlib/NumberTheory/NumberField/Ideal/KummerDedekind.lean [hunk 4]
```diff
@@ -110,3 +131,123 @@ def ZModXQuotSpanEquivQuotSpanPair (hp : ¬ p ∣ exponent θ) {Q : ℤ[X]}
...
+/--
+The residual degree of the ideal corresponding to the class of `Q ∈ ℤ[X]` modulo `p` via
+`NumberField.Ideal.primesOverSpanEquivMonicFactorsMod` is equal to the degree of `Q mod p`.
+-/
+theorem inertiaDeg_primesOverSpanEquivMonicFactorsMod_symm_apply (hp : ¬ p ∣ exponent θ)
+    {Q : ℤ[X]} (hQ : Q.map (Int.castRingHom (ZMod p)) ∈ monicFactorsMod θ p) :
+    inertiaDeg (span {(p : ℤ)}) ((primesOverSpanEquivMonicFactorsMod hp).symm
+      ⟨Q.map (Int.castRingHom (ZMod p)), hQ⟩ : Ideal (𝓞 K)) =
+        natDegree (Q.map (Int.castRingHom (ZMod p))) := by
+  -- Register this instance for `inertiaDeg_algebraMap` below
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/Ideal/KummerDedekind.lean]: What is the situation with this comment?

File: Mathlib/RingTheory/AdjoinRoot.lean [hunk 5]
```diff
@@ -548,6 +548,15 @@ theorem minpoly_powerBasis_gen_of_monic (hf : f.Monic) (hf' : f ≠ 0 := hf.ne_z
     minpoly K (powerBasis hf').gen = f := by
   rw [minpoly_powerBasis_gen hf', hf.leadingCoeff, inv_one, C.map_one, mul_one]
 
+theorem _root_.finrank_quotient_span_eq_natDegree {f : K[X]} :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/AdjoinRoot.lean:554]: Can you check this one is not already there? I have the impression to have seen it recently (but maybe it was in one of your PRs...).

Comment (xroblot) [reply Mathlib/RingTheory/AdjoinRoot.lean:554]: This version does not exists (as far as I can tell). One can prove a version over a ring that requires `f` to be a monic using `IsAdjoinRoot`. I added this version too and docstrings so that each version refers to the other.

Comment (xroblot) [reply Mathlib/RingTheory/AdjoinRoot.lean:554]: Maybe you were thinking of [finrank_quotient_span_eq_natDegree_norm](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/FreeModule/Norm.html#finrank_quotient_span_eq_natDegree_norm)?

Comment (riccardobrasca) [reply Mathlib/RingTheory/AdjoinRoot.lean:554]: I don't know, but I can very well be wrong. If `exact?` doesn't find it don't worry.

File: Mathlib/NumberTheory/NumberField/Ideal/KummerDedekind.lean (hunk 4 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/Ideal/KummerDedekind.lean]: Maybe this comment is a bit unclear but it means to say that we need the following line so that the call to `inertiaDeg_algebraMap` on line 210 works.

Comment (riccardobrasca) [reply Mathlib/NumberTheory/NumberField/Ideal/KummerDedekind.lean]: Ah OK, I would not say "register this instance" but something like "this is needed for blahblah below".

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
